US20010049441A1
3-(Octahydro-7-indolizinyl)-1-benzenesulfonyl-7-azaindole (14.4 mg, 91.1%);
from 3-(octahydro-7-indolizinyl)-1H-7-azaindole (less polar isomer) (10 mg, 0.0415 mmol), benzenesulfonyl chloride (10 μL, 0.0784 mmol) and 1M NaN(TMS)2 (100 μL, 0.10 mmol) in THF (0.5 mL) at RT.

reactant | 3-(octahydro-7-indolizinyl)-1H-7-azaindole | C1CCN2CCC(CC12)C1=CNC2=NC=CC=C12 | C15H19N3
reactant | benzenesulfonyl chloride | 0.0784 mmol, 10 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaN(TMS)2 | 0.10 mmol, 1M, 100 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-(Octahydro-7-indolizinyl)-1-benzenesulfonyl-7-azaindole | C1CCN2CCC(CC12)C1=CN(C2=NC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C21H23N3O2S
